US07696223B2
a) 4-Methyl-2-phenoxy-thiazole-5-carboxylic acid ethyl ester
A mixture of 2-bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester (1.89 g, 7.57 mmol), phenol (855 mg, 9.09 mmol) and potassium carbonate (1.36 g, 9.84 mmol) in dimethylformamide (18 mL) was heated at 95° C. for 15 h before it was cooled to room temperature and partitioned between ethyl acetate and water, the organic layer was washed with water, aqueous sodium hydroxide (2×), brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a yellow oil (1.32 g): MS: (+) m/z 264.0 (M+1).

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester | 7.57 mmol, 1.89 g | C(C)OC(=O)C1=C(N=C(S1)Br)C | C7H8BrNO2S
reactant | phenol | 9.09 mmol, 855 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 9.84 mmol, 1.36 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 18 mL | CN(C=O)C | C3H7NO
product | 4-Methyl-2-phenoxy-thiazole-5-carboxylic acid ethyl ester | 1.32 g | C(C)OC(=O)C1=C(N=C(S1)OC1=CC=CC=C1)C | C13H13NO3S
